US05948820
(4) N-[1,1-Bis(2-benzyloxyethyl)-3-phenylpropyl]acetamide
Sulfuric acid (4.2 g) was added to a solution of 1,5-dibenzyloxy-3-(2-phenylethyl)-3-pentanol (5.8 g) in acetonitrile (50 ml) under ice-cooling and the mixture was stirred at room temperature for 3 hours. The mixture was poured into ice-water and extracted with ethyl acetate. The ethyl acetate layer was washed with a saturated aqueous sodium hydrogencarbonate solution and a saturated brine, dried over anhydrous sodium sulfate and concentrated. The residue obtained was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=7:3) to give the subject compound (2.2 g) as a yellowish oily substance.

reactant | Sulfuric acid | 4.2 g | S(O)(O)(=O)=O | H2O4S
reactant | 1,5-dibenzyloxy-3-(2-phenylethyl)-3-pentanol | 5.8 g | C(C1=CC=CC=C1)OCCC(CCOCC1=CC=CC=C1)(O)CCC1=CC=CC=C1 | C27H32O3
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-[1,1-Bis(2-benzyloxyethyl)-3-phenylpropyl]acetamide | 2.2 g | C(C1=CC=CC=C1)OCCC(CCC1=CC=CC=C1)(CCOCC1=CC=CC=C1)NC(C)=O | C29H35NO3
